US09422267B2
To a solution of 6-fluoropyridin-3-amine (6.09 g, 54.4 mmol) in dry THF (100 mL) was added a 2M solution of isopropylmagnesium chloride (27.2 mL, 54.4 mmol) in THF dropwise under nitrogen at 0° C. The resultant mixture was stirred at 0° C. for 20 min. To this solution was added a solution of methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate (5 g, 13.5 mmol) in THF (20 mL) dropwise at 0° C. and the reaction mixture was allowed to stir at RT for 2 h. The reaction was quenched with saturated ammonium chloride solution (200 mL). The product was extracted with EtOAc (2×80 mL) and the organic layer was dried over anhydrous sodium sulfate. Removal of EtOAc under reduced pressure gave a solid residue which was purified by column chromatography on silica gel using 2-2.5% MeOH-DCM system as eluent to afford 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)pyrrolidine-2-carboxamide (2.85 g, 47% yield) as the racemate. 1H NMR (400 MHz, CD3OD, freebase) δ (ppm): 0.56-0.72 (m, 2H), 0.82-0.94 (m, 2H), 1.70-1.82 (m, 1H), 2.00-2.20 (m, 4H), 2.21-2.38 (m, 2H), 2.70-2.77 (m, 2H), 2.78-2.82 (m, 2H), 3.58-3.78 (m, 1H), 3.79-3.81 (m, 1H), 4.70 (dd, 1H), 6.25 (s, 1H), 6.98 (dd, 1H), 7.95 (s, 1H), 8.18 (s, 1H). Separation by chiral HPLC provided enantiomers 2a and 2b.

reactant | 6-fluoropyridin-3-amine | 54.4 mmol, 6.09 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | 54.4 mmol, 27.2 mL | C(C)(C)[Mg]Cl
reactant | methyl 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)pyrrolidine-2-carboxylate | 13.5 mmol, 5 g | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)OC)CCC2 | C19H24N6O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-(5-cyclopropyl-1H-pyrazol-3-ylamino)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl)-N-(6-fluoropyridin-3-yl)pyrrolidine-2-carboxamide | 2.85 g, 47% yield | C1(CC1)C1=CC(=NN1)NC=1C2=C(N=C(N1)N1C(CCC1)C(=O)NC=1C=NC(=CC1)F)CCC2 | C23H25FN8O
